US04647706
French Pat. No. 2,027,172 relates to a process for gas phase hydrogenation of perhaloketones over a palladium-based catalyst deposited on activated charcoal and particularly describes catalytic hydrogenation of hexafluoroacetone (CF3COCF3) to yield 1,1,1,3,3,3-hexafluoroisopropyl alcohol. The yield obtained (75%) and the difficulty of handling the starting material (b.p.: -27.4° C./760 torr) make the process uneconomical. French Pat. No. 2,479,803 carries out a gas phase catalytic hydrogenation of hexafluoroacetone to 1,1,1,3,3,3-hexafluoroisopropanol over a nickel-based catalyst. The catalyst life is not rated for a continuous operation time longer than 20 hours and, above all, this process requires the use of a pure starting material, which is difficult to obtain in the case of hexafluoroacetone. French Pat. No. 1,361,260 carries out the gas phase catalytic hydrogenation of hexafluoroacetone over a catalyst based on copper chromite. The yields of 1,1,1,3,3,3-hexafluoroisopropanol are mediocre (approximately 40%) for a partial conversion (83%) of the ketone used. This entails difficult and costly recycling.

reactant | charcoal | C | CH4
reactant | hexafluoroacetone | FC(C(=O)C(F)(F)F)(F)F | C3F6O
catalyst | palladium | [Pd] | Pd
product | 1,1,1,3,3,3-hexafluoroisopropyl alcohol | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
